US05571843
2-[4-ethylthiosemicarbazono)-indan-1,3-dione
ninhydrin, 4-ethyl thiosemicarbazide hydrochloride

reactant | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
reactant | 4-ethyl thiosemicarbazide hydrochloride | Cl.C(C)NC(NN)=S
product | 2-[4-ethylthiosemicarbazono)-indan-1,3-dione | C(C)NC(NN=C1C(C2=CC=CC=C2C1=O)=O)=S | C12H11N3O2S
